US07176212B2
2-Anilino-4-{4-[3-(N,N-dimethyl)amino-2-hydroxypropoxy]anilino}pyrimidine
2-Anilino-4-chloropyrimidine (145 mg, 0.71 mmol) was dissolved in n-butanol (20 ml). To this solution was added a hot solution of 4-[3-(N,N-dimethyl)amino-2-hydroxy-propoxy]aniline hydrochloride (Reference Example D-1; 178 mg, 0.63 mmol) in methanol (2 ml). The reaction mixture was heated at 80° C. for 18 hours, allowed to cool to ambient temperature and then evaporated onto silica (3 ml). The residue was purified by column chromatography eluting with 0–8% 2.0M methanolic ammonia solution in DCM to give the title product as a colourless solid (157 mg, 65%). NMR (300 MHz): 2.18 (s, 6H), 2.33 (m, 2H), 3.83 (m, 3H), 4.77 (d, 1H), 6.11 (d, 1H), 6.86 (m, 3H), 7.19 (m, 2H), 7.51 (d, 2H), 7.69 (d, 2H), 7.96 (d, 1H), 9.01 (s, 1H), 9.08 (s, 1H); m/z: (ES+) 380.4 (MH+).

reactant | 2-Anilino-4-chloropyrimidine | 0.71 mmol, 145 mg | N(C1=CC=CC=C1)C1=NC=CC(=N1)Cl | C10H8ClN3
reactant | 4-[3-(N,N-dimethyl)amino-2-hydroxy-propoxy]aniline hydrochloride | 0.63 mmol, 178 mg | Cl.CN(C)CC(COC1=CC=C(N)C=C1)O
solvent | n-butanol | 20 ml | C(CCC)O | C4H10O
solvent | methanol | 2 ml | CO | CH4O
product | 2-Anilino-4-{4-[3-(N,N-dimethyl)amino-2-hydroxypropoxy]anilino}pyrimidine | 157 mg, 65% | N(C1=CC=CC=C1)C1=NC=CC(=N1)NC1=CC=C(C=C1)OCC(CN(C)C)O | C21H25N5O2
